US05736534
4-(3,4-Dihydro-2H-quinolin-1-yl)-7-methoxy-6-methylsulfanyl-quinazoline
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 35% yield from 1,2,3,4-tetrahydroquinoline and 4-chloro-7-methoxy-6-methylsulfanyl-quinazoline. (M.P. 193°-196° C.; LC-MS: 338 (MH+)).

reactant | 1,2,3,4-tetrahydroquinoline | N1CCCC2=CC=CC=C12 | C9H11N
reactant | 4-chloro-7-methoxy-6-methylsulfanyl-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)SC)OC | C10H9ClN2OS
product | 4-(3,4-Dihydro-2H-quinolin-1-yl)-7-methoxy-6-methylsulfanyl-quinazoline | 35% yield | N1(CCCC2=CC=CC=C12)C1=NC=NC2=CC(=C(C=C12)SC)OC | C19H19N3OS
